US04304788
Sodium hydride (0.7 g., 80% w/w suspension in mineral oil) was added gradually to a stirred solution of 1-[4-(4-chlorophenyl)phenyl]ethanol (4.7 g.) in dry dimethylformamide (20 ml.), keeping the temperature below 40° C. After 30 minutes stirring ethyl 2-bromopropionate (2.6 ml.) was then added, keeping the temperature below 30° C. After stirring for 16 hours at room temperature, the mixture was poured into water (150 ml.), and the subsequent mixture was extracted with ether. The combined extracts were washed with water, dried (MgSO4) and evaporated to give ethyl 2-{1-[4-(4-chlorophenyl)phenyl]ethoxy}propionate, as an oil (3.0 g.).

reactant | Sodium hydride | 0.7 g | [H-].[Na+]
reactant | 1-[4-(4-chlorophenyl)phenyl]ethanol | 4.7 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)O | C14H13ClO
reactant | ethyl 2-bromopropionate | 2.6 ml | BrC(C(=O)OCC)C | C5H9BrO2
reactant | water | 150 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | ethyl 2-{1-[4-(4-chlorophenyl)phenyl]ethoxy}propionate | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)OC(C(=O)OCC)C | C19H21ClO3
